US04874861
To 3 ml of dry N,N-dimethylformamide was added 0.024 g of 55% sodium hydride. The resulting mixture was kept at 0° C. and was added dropwise with a solution of 1 g of p-t-butylbenzyl mercaptan dissolved in 5 ml of N,N-dimethylformamide. After ten minutes passed, the resulting mixture was added dropwise with a solution of 0.67 g of 5-chloro-2-ethyl-4-methyl-3(2H)-pyridazinone dissolved in 5 ml of N,N-dimethylformamide. After completion of dropwise addition, the resulting mixture was allowed to stand over night. The resulting solution was poured into 30 ml of water and extracted twice with 30 ml of diethyl ether. The resulting organic layer was washed with water, dried over anhydrous sodium sulfate, and freed of solvent by distillation under reduced pressure to give 1.42 g of a crude product. The crude product was separated and purified by thin layer chromatography (silica gel, benzene) to obtain 0.69 g of 5-(p-t-butylbenzylthio)-2-ethyl-4-methyl-3(2H)-pyridazinone.

reactant | sodium hydride | 0.024 g | [H-].[Na+]
reactant | p-t-butylbenzyl mercaptan | 1 g | C(C)(C)(C)C1=CC=C(CS)C=C1 | C11H16S
reactant | 5-chloro-2-ethyl-4-methyl-3(2H)-pyridazinone | 0.67 g | ClC1=C(C(N(N=C1)CC)=O)C | C7H9ClN2O
reactant | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-(p-t-butylbenzylthio)-2-ethyl-4-methyl-3(2H)-pyridazinone | 0.69 g | C(C)(C)(C)C1=CC=C(CSC2=C(C(N(N=C2)CC)=O)C)C=C1 | C18H24N2OS
